US06265426B1
3-Pyrrolidin-1-ylmethyl-benzonitrile
To a stirred solution of of 3-cyanobenzaldehyde (15 g, 114.4 mmol) in THF (150 ml) was added pyrrolidine (9.76 g, 137.2 mmol, 1.2 eq.), acetic acid (8,24 g, 137.2 mmol, 1.2 eq.) and sodium triacetoxyborohydride (36.3 g, 171.6 mmol, 1.5 eq.). The resulting suspension was vigorously stirred at r.t. for 24 hrs. under Ar. 5% NaHCO3 was then added and the mixture stirred for a further 10-15 min. The mixture was then extracted with ethylacetate. The organic phase was washed with brine, then dried with Na2SO4. After removal of the solvent the yellow liquid was distilled over a Vigreux column to afford the title compound as a colorless liquid (19 g, 102 mmol, 89% yield). MS: m/e=186 (M+)

reactant | 3-cyanobenzaldehyde | 114.4 mmol, 15 g | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
reactant | pyrrolidine | 137.2 mmol, 9.76 g, 1.2 eq. | N1CCCC1 | C4H9N
reactant | acetic acid | 137.2 mmol, 8,24 g, 1.2 eq. | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 171.6 mmol, 36.3 g, 1.5 eq. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 3-Pyrrolidin-1-ylmethyl-benzonitrile | 102 mmol, 19 g, 89% yield | N1(CCCC1)CC=1C=C(C#N)C=CC1 | C12H14N2
